US05075454
7-Hydroxy-9a-methoxymitosane was alkylated with 3-methyl-I-p-tolyltriazene to give mitomycin A or with diazodiphenylmethane to give 7-(diphenylmethyl)oxy-9a-methoxymitosane (hereinafter 7-ODPM mitomycin).

reactant | 7-Hydroxy-9a-methoxymitosane | CC1=C(C2=C([C@H]([C@@]3(N2C[C@H]4[C@@H]3N4)OC)COC(=O)N)C(=O)C1=O)O | C15H17N3O6
reactant | 3-methyl-I-p-tolyltriazene | CNN=NC1=CC=C(C=C1)C | C8H11N3
product | mitomycin A | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)OC | C16H19N3O6
